US04906666
(f) S-[3-(3-{1-Hydroxyhexyl}-phenoxy)-2-hydroxypropyl]-4-mercaptobutyric acid
10.0 g. Ethyl S-[3-(3-{1-hydroxyhexyl}-phenoxy)-2-hydroxypropyl]-4-mercaptobutyrate are stirred for 2 hours at 50° C. with 50 ml. methanol and 50 ml. 2M aqueous sodium hydroxide solution. The solvent is subsequently stripped off and the residue is taken up in water and extracted three times with ethyl acetate. The aqueous phase is acidified with 2M hydrochloric acid and extracted three times with ethyl acetate. The organic phase is washed natural, dried and evaporated. There are obtained 7.4 g. (80% of theory) of the title compound in the form of an oil.

reactant | Ethyl S-[3-(3-{1-hydroxyhexyl}-phenoxy)-2-hydroxypropyl]-4-mercaptobutyrate | OC(CCCCC)C=1C=C(OCC(CSCCCC(=O)OCC)O)C=CC1 | C21H34O5S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | O | H2O
product | S-[3-(3-{1-Hydroxyhexyl}-phenoxy)-2-hydroxypropyl]-4-mercaptobutyric acid | OC(CCCCC)C=1C=C(OCC(CSCCCC(=O)O)O)C=CC1 | C19H30O5S
